US05106842
Diphenylmethyl 7-amino-3-(2-benzyloxy-3,4-dioxo-1-cyclobutenyl)-3-cephem-4-carboxylate (Ib4)
Diphenylmethyl 7-(t-butoxycarbonylamino)-3-(2-benzyloxy-3,4-dioxo-1-cyclobutenyl)-3-cephem-4-carboxylate was deprotected with a solution of pTSOH.H2O in acetonitrile as described in the preceding experiment to provide the title compound which was directly used in the next step.

reactant | Diphenylmethyl 7-(t-butoxycarbonylamino)-3-(2-benzyloxy-3,4-dioxo-1-cyclobutenyl)-3-cephem-4-carboxylate | C(C)(C)(C)OC(=O)NC1[C@@H]2N(C(=C(CS2)C2=C(C(C2=O)=O)OCC2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C36H32N2O8S
reactant | H2O | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | Diphenylmethyl 7-amino-3-(2-benzyloxy-3,4-dioxo-1-cyclobutenyl)-3-cephem-4-carboxylate | NC1[C@@H]2N(C(=C(CS2)C2=C(C(C2=O)=O)OCC2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C31H24N2O6S
